US05627177
A suspension of 7-aminoindole (4.10 g, 0.031 moles), bischloroethylamine hydrochloride (6.23 g, 0.035 moles) and potassium carbonate (9.66 g, 0.035 moles) in butanol (100 ml) was heated at reflux under argon for 6h. Further bischloroethylamine hydrochloride (3.0 g, 0.016 moles) and potassium carbonate (4.5 g, 0.016 moles) was added, then the suspension was heated at reflux under argon for 18 h. The solvent was evaporated in vacuo to give a deep purple residue which was taken up into dilute hydrochloric acid (300 ml), washed with ethyl acetate (2×100 ml), made basic with sodium hydroxide, extracted into dichloromethane, filtered, dried (MgSO4) then evaporated in vacuo to a yellow oil. This was crystallised twice from ether to give 7-(1-piperazinyl)indole (2.07 g, 0.010 moles) as a grey/white solid.

reactant | 7-aminoindole | 0.031 moles, 4.10 g | NC=1C=CC=C2C=CNC12 | C8H8N2
reactant | bischloroethylamine hydrochloride | 0.035 moles, 6.23 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 0.035 moles, 9.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | bischloroethylamine hydrochloride | 0.016 moles, 3.0 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 0.016 moles, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 7-(1-piperazinyl)indole | 0.010 moles, 2.07 g | N1(CCNCC1)C=1C=CC=C2C=CNC12 | C12H15N3
